US04576938
To a solution of triethylamine (7.02 g, 69.4 mmol) and water (2.2 ml) in dimethylacetamide (72 ml) was added 7β-amino-3-[(1-amino-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid (11.5 g, 34.7 mmol) at room temperature and the mixture was stirred to dissolve it. The mixture was cooled to -6° to -3° C. and a solution of 1-benzotriazolyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetate (29.2 g, 52.1 mmol) in dimethylacetamide (120 ml) was added dropwise to the mixture and allowed to react at 5° C. for 17 hours. The reaction mixture was poured into ice-water (500 ml). The aqueous layer was washed with ethyl acetate (100 ml)--tetrahydrofuran (50 ml) and adjusted to pH 3 with 20% aqueous sulfuric acid. Precipitated material was extracted with ethyl acetate (200 ml)--tetrahydrofuran (100 ml). The organic layer was filtered to remove insoluble material, washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The residue was treated with ether to give pale yellow substance of 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[(1-amino-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid (15.1 g, 57.7%), mp~175° C. (decomposition).

reactant | triethylamine | 69.4 mmol, 7.02 g | C(C)N(CC)CC | C6H15N
reactant | water | 2.2 ml | O | H2O
reactant | 7β-amino-3-[(1-amino-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid | 34.7 mmol, 11.5 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2N)C(=O)O)C1=O | C9H11N7O3S2
reactant | 1-benzotriazolyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetate | 52.1 mmol, 29.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)ON1N=NC2=C1C=CC=C2)=N/OC | C31H24N6O3S
solvent | dimethylacetamide | 72 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 120 ml | CC(=O)N(C)C | C4H9NO
product | 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[(1-amino-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid | 15.1 g, 57.7% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2N)C(=O)O)C1=O)=N/OC | C34H30N10O5S3
